US04508727
1.0 g of (4S)-1-benzyl-3-{(2S)-2-[N-((1S)-1-benzyloxycarbonyl-3-phenylpropyl)amino]propionyl}-2-oxo-imidazolidine-4-carboxylic acid is dissolved in 20 ml of methanol, and 50 mg of palladium black are added thereto. The mixture is shaken at room temperature in hydrogen gas atmosphere for two hours under an atmospheric pressure. Insoluble materials are filtered off, and the filtrate is concentrated under reduced pressure to remove solvent. The residue is triturated with ether, whereby 0.7 g of (4S)-1-benzyl-3-{(2S)-2-[N-((1S)-1-carboxy-3-phenylpropyl)amino]propionyl}-2-oxo-imidazolidine-4-carboxylic acid is obtained as colorless crystals. Yield: 83.9% The physico-chemical properties of this product are identical with those of the sample obtained in Example 8-(2).

reactant | (4S)-1-benzyl-3-{(2S)-2-[N-((1S)-1-benzyloxycarbonyl-3-phenylpropyl)amino]propionyl}-2-oxo-imidazolidine-4-carboxylic acid | 1.0 g | C(C1=CC=CC=C1)N1C(N([C@@H](C1)C(=O)O)C([C@H](C)N[C@@H](CCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1)=O)=O | C31H33N3O6
solvent | methanol | 20 ml | CO | CH4O
solvent | hydrogen | [H][H] | H2
catalyst | palladium black | 50 mg | [Pd] | Pd
product | (4S)-1-benzyl-3-{(2S)-2-[N-((1S)-1-carboxy-3-phenylpropyl)amino]propionyl}-2-oxo-imidazolidine-4-carboxylic acid | 0.7 g, Yield: 83.9% | C(C1=CC=CC=C1)N1C(N([C@@H](C1)C(=O)O)C([C@H](C)N[C@@H](CCC1=CC=CC=C1)C(=O)O)=O)=O | C24H27N3O6
